US07176242B2
formic acid compound with N1-[(3S)-1-azabicyclo[2.2.2]oct-3-yl]-N5-((1S,2R)-1-(3,5-difluorobenzyl)-3-{[1-(3-ethylphenyl)cyclopropyl]amino}-2-hydroxypropyl)pentanediamide (1:1)
To a solution of R-aminoquinuclidine (0.084 g, 0.421 mmol) TEA (0.294 ml, 2.11 mmol), and anhydrous DMF (2.5 ml) was added 5-[((1S,2R)-1-(3,5-difluorobenzyl)-3-{[1-(3-ethylphenyl)cyclopropyl]amino}-2-hydroxypropyl)amino]-5-oxopentanoic acid (0.200 g, 0.421 mmol), EDC (0.121 g, 0.632 mmol), HOBT (0.085 g, 0.632 mmol) under nitrogen, with stirring at 45° C. overnight. Reaction mixture was quenched with 10% sodium bicarbonate (aq.) then extracted with ethyl acetate then concentrated in vacuo, yielding product (0.122 g). Prep-HPLC yielded the product as its formate salt. (ES+: 583.3)

reactant | 5-[((1S,2R)-1-(3,5-difluorobenzyl)-3-{[1-(3-ethylphenyl)cyclopropyl]amino}-2-hydroxypropyl)amino]-5-oxopentanoic acid | 0.421 mmol, 0.200 g | FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)CC)O)NC(CCCC(=O)O)=O)C=C(C1)F | C26H32F2N2O4
reactant | EDC | 0.632 mmol, 0.121 g
reactant | HOBT | 0.632 mmol, 0.085 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | formic acid compound with N1-[(3S)-1-azabicyclo[2.2.2]oct-3-yl]-N5-((1S,2R)-1-(3,5-difluorobenzyl)-3-{[1-(3-ethylphenyl)cyclopropyl]amino}-2-hydroxypropyl)pentanediamide | 0.122 g | N12C[C@H](C(CC1)CC2)NC(CCCC(=O)N[C@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)CC)O)CC2=CC(=CC(=C2)F)F)=O.C(=O)O | InChI=1S/C33H44F2N4O3.CH2O2/c1-2-22-5-3-6-25(15-22)33(11-12-33)36-20-30(40)28(18-23-16-26(34)19-27(35)17-23)37-31(41)7-4-8-32(42)38-29-21-39-13-9-24(29)10-14-39;2-1-3/h3,5-6,15-17,19,24,28-30,36,40H,2,4,7-14,18,20-21H2,1H3,(H,37,41)(H,38,42);1H,(H,2,3)/t28-,29+,30+;/m0./s1
